US08258144B2
1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-chloropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone
The titled compound was synthesized analogously as compound 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone, by using 2,4,5-trichloropyrimidine. MS 444.3 and 446.3 (M+H, Cl pattern); UV 210.7, 265.7 nm.

reactant | 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C22H30FN7O
reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
product | 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-chloropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | NCC1CCN(CC1)C1=NC(=NC=C1Cl)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C22H30ClN7O
